US06087392
A solution of 4-[4-(4-fluorophenoxy)benzenesulfonylamino]tetrahydropyran-4-carboxylic acid ethyl ester (12.1 grams, 0.0286 mole) in tetrahydrofuran (190 mL) was treated with aqueous 3 M sodium hydroxide solution (95 mL, 0.286 mole) and stirred at room temperature for 4 days. The solvent was evaporated under vacuum and the residue partitioned between water and diethyl ether. The aqueous layer was washed with diethyl ether, acidified to pH 1 with 3N aqueous hydrochloric acid solution and extracted with dichloromethane. After washing with water, the organic extract was dried over sodium sulfate, and concentrated to give 4-[4-(4-fluorophenoxy)-benzenesulfonylamino]tetrahydropyran-4-carboxylic acid (11.241 grams, 99%) as a yellowish solid foam.

reactant | 4-[4-(4-fluorophenoxy)benzenesulfonylamino]tetrahydropyran-4-carboxylic acid ethyl ester | 0.0286 mole, 12.1 grams | C(C)OC(=O)C1(CCOCC1)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C20H22FNO6S
reactant | sodium hydroxide | 0.286 mole, 3 M, 95 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 190 mL | O1CCCC1 | C4H8O
product | 4-[4-(4-fluorophenoxy)-benzenesulfonylamino]tetrahydropyran-4-carboxylic acid | 11.241 grams, 99% | FC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)NC2(CCOCC2)C(=O)O)C=C1 | C18H18FNO6S
